US08058300B2
Synthesis of {5-[4′-(1-Methanesulfonylaminocarbonyl-cyclopropyl)-biphenyl-4-yl]-3-methyl-isoxazol-4-yl}-carbamic acid (R)-1-phenyl-ethyl ester (Compound 35)
1-{4′-[3-Methyl-4-((R)-1-phenyl-ethoxycarbonylamino)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid (0.1 g, 0.2 mmol), methanesulfonamide (0.08 g, 0.8 mmol), and N,N′-carbonyldiimidazole (0.15 g, 0.6 mmol) were combined in THF (4 mL). Diisopropylethylamine (0.5 mL) was added, and the reaction was stirred at 65° C. overnight. The mixture was acidified and extracted with CH2Cl2. The crude material was purified by silica gel chromatography (0-50% EtOAc in hexanes) to give the title compound.

reactant | 1-{4′-[3-Methyl-4-((R)-1-phenyl-ethoxycarbonylamino)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid | 0.2 mmol, 0.1 g | CC1=NOC(=C1NC(=O)O[C@H](C)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)O | C29H26N2O5
reactant | methanesulfonamide | 0.8 mmol, 0.08 g | CS(=O)(=O)N | CH5NO2S
reactant | Diisopropylethylamine | 0.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | {5-[4′-(1-Methanesulfonylaminocarbonyl-cyclopropyl)-biphenyl-4-yl]-3-methyl-isoxazol-4-yl}-carbamic acid (R)-1-phenyl-ethyl ester | C1(=CC=CC=C1)[C@@H](C)OC(NC=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)NS(=O)(=O)C)C)=O | C30H29N3O6S
